### PR TITLE
[Merged by Bors] - feat: refactor of solve_by_elim

### PR DESCRIPTION
**Pull request by kim-em**
This is a thorough refactor of `solve_by_elim`.

* Bug fixes and additional tests.
* Support for removing local hypotheses using `solve_by_elim [-h]`.
* Use `symm` on hypotheses and `exfalso` on the goal, as needed.
* To support that, `MetaM` level tooling for the `symm` tactic. (`rfl` and `trans` deserve the same treatment at some point.)
* Additional hooks for flow control in `solve_by_elim` (suspending goals to return to the user, rejecting branches, running arbitrary procedures on the goals).
* Using those hooks, reimplement `apply_assumption` and `apply_rules` as thin wrappers around `solve_by_elim`, allowing access to new features (removing hypotheses, symm and exfalso) for free.
* Using those hooks, fix `library_search using` so 
```example (P Q : List ℕ) (h : ℕ) : List ℕ := by library_search using P, Q -- exact P ∩ Q```

### CODE REVIEW

File: Mathlib/Tactic/SolveByElim.lean [hunk 1]
```diff
@@ -15,40 +18,291 @@ We'll gradually bring it up to feature parity.
...
+*  control the maximum depth and behaviour (fail or return subgoals) at the maximum depth
+*  whether to use `symm` on hypotheses and `exfalso` on the goal as needed,
+* and hooks allowing
+  * modifying intermediate goals,
+  * returning goals as subgoals, and
+  * discharging subgoals.
+-/
+structure Config extends ApplyConfig where
+  /-- Maximum recursion depth. -/
+  maxDepth : Nat := 12
```
Comment (dwrensha) [inline Mathlib/Tactic/SolveByElim.lean:63]: The [corresponding default max-depth](https://github.com/leanprover-community/mathlib/blob/c982179ec21091d3e102d8a5d9f5fe06c8fafb73/src/tactic/solve_by_elim.lean#L126) in mathlib3 is 3, if I understand correctly.

What's the reason for making it so much larger here? Could this potentially make some proofs go significantly slower than this did in mathlib3?

File: Mathlib/Data/Sum/Basic.lean [hunk 2]
```diff
@@ -42,6 +42,12 @@ namespace Sum
 
 deriving instance DecidableEq for Sum
 
+instance beq [BEq α] [BEq β] : BEq (α ⊕ β) where
```
Comment (dwrensha) [inline Mathlib/Data/Sum/Basic.lean:45]: Would `deriving instance BEq for Sum` work instead?

File: test/SolveByElim.lean [hunk 3]
```diff
@@ -52,11 +72,62 @@ example : True := by
...
+  solve_by_elim* (config := {maxDepth := 13}) [Or.inl, Or.inr, Exists.intro]
+
+-- Test that `Config.intros` causes `solve_by_elim` to call `intro` on intermediate goals.
+example (P : Prop) : P → P := by
+  fail_if_success solve_by_elim
+  solve_by_elim (config := .intros)
+
+-- This worked in mathlib3. Why is it failing here?
+-- example (P Q R : Prop) : P ∧ Q → P ∧ Q := by
+--   solve_by_elim [And.imp, id]
```
Comment (dwrensha) [inline test/SolveByElim.lean:130]: Weird. It gets into an infinite loop, trying to apply `id` in the wrong way.
`solve_by_elim [And.imp, @id]` works.

File: Mathlib/Tactic/SolveByElim.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Tactic/SolveByElim.lean:63]: Yes, that was excessive. I've been wanting to increase it in mathlib for a long time. I mistakenly thought it was 6 in mathlib3, and thought I was doubling it. :-)

Raising it to 6 in mathlib3 seems to not cause any problems (any side goal from a `wlog` is not longer needed), so I propose we try that here as a compromise!

File: Mathlib/Tactic/SolveByElim.lean [hunk 4]
```diff
@@ -65,121 +320,197 @@ This would make it impossible to apply the lemma
...
+  let args := args.toList
+  (args.contains none,
+    args.filterMap fun o => o.bind Sum.getLeft,
+    args.filterMap fun o => o.bind Sum.getRight)
 
 /--
 `solve_by_elim` calls `apply` on the main goal to find an assumption whose head matches
 and then repeatedly calls `apply` on the generated subgoals until no subgoals remain,
-performing at most `max_depth` (currently hard-coded to 6) recursive steps.
+performing at most `maxDepth` (currently hard-coded to 12) recursive steps.
```
Comment (dwrensha) [inline Mathlib/Tactic/SolveByElim.lean:400]: No longer hardcoded, because it now accepts a `Config`, right? (Also, 6 is the default after your recent commit.)

File: Mathlib/Tactic/SolveByElim.lean [hunk 5]
```diff
@@ -15,40 +18,292 @@ We'll gradually bring it up to feature parity.
...
+
+``applyFirst (trace := `name)`` will construct trace nodes for ``name` indicating which
+calls to `apply` succeeded or failed.
+-/
+-- Because the operation of this function via a continuation is fairly specific to `solve_by_elim`,
+-- we keep it here rather than moving it into `Mathlib/Lean/`.
+def applyFirst (cfg : ApplyConfig := {}) (trace : Name := .anonymous) (lemmas : List Expr)
+    (cont : List MVarId → MetaM α) (g : MVarId) : MetaM α :=
+  lemmas.firstM fun e =>
+    withTraceNode trace (return m!"{exceptEmoji ·} tried to apply: {e}") do
```
Comment (dwrensha) [inline Mathlib/Tactic/SolveByElim.lean:43]: I know I argued for the past tense ("tried to apply") in #681, but I think I've come around to the present tense ("trying to apply"). My mental model now is that this is a log line with a hole that gets filled in later.

File: Mathlib/Tactic/LibrarySearch.lean [hunk 6]
```diff
@@ -116,10 +114,12 @@ def librarySearch (goal : MVarId) (lemmas : DiscrTree Name s) (required : List E
...
 
   pure $ some suggestions
-    where
-  /-- Verify that the instantiated goal contains each `Expr` in `required` as a sub-expression.
-  (Make sure to not reset the state before calling.) -/
-  checkRequired : MetaM Bool := return required.all (·.occurs (← instantiateMVars (.mvar goal)))
+  --   where
+  -- /-- Verify that the instantiated goal contains each `Expr` in `required` as a sub-expression.
+  -- (Make sure to not reset the state before calling.) -/
+  -- -- TODO We need to move this check into `solveByElim`, to get proper backtracking.
```
Comment (dwrensha) [inline Mathlib/Tactic/LibrarySearch.lean:120]: Is this comment obsolete? It looks like you are using `cfg.requireUsingAll` above.

File: Mathlib/Tactic/SolveByElim.lean [hunk 7]
```diff
@@ -15,40 +18,301 @@ We'll gradually bring it up to feature parity.
...
+-/
+def solveByElim (cfg : Config) (lemmas : List (TermElabM Expr)) (ctx : TermElabM (List Expr))
+    (goals : List MVarId) : MetaM (List MVarId) := do
+  -- We handle `cfg.symm` by saturating hypotheses of all goals using `symm`.
+  let goals ← if cfg.symm then
+    goals.mapM fun g => g.symmSaturate
+  else
+    pure goals
+
+  match cfg.exfalso, goals with
```
Comment (dwrensha) [inline Mathlib/Tactic/SolveByElim.lean:202]: Just noting: this approach to `exfalso` and `symm` is significantly different from [how mathlib3 does it](https://github.com/leanprover-community/mathlib/blob/master/src/tactic/core.lean#L1103-L1107) (i.e. by trying to apply `exfalso` and `symmetry` at every step long the way). It's not obvious to me whether its better or worse, but we should keep this in mind as a possible source of performance discrepancy.

File: Mathlib/Tactic/SolveByElim.lean [hunk 8]
```diff
@@ -65,121 +329,197 @@ This would make it impossible to apply the lemma
...
+      throwError "It doesn't make sense to add local hypotheses unless you use `only` without `*`."
+    pure <| (← getLocalHyps).toList.removeAll (removeLocal.map .fvar)
+
+  return (hyps, locals)
+  where
+  /-- Run `elabTerm`. -/
+  elab' (t : Term) : TermElabM Expr := Elab.Term.elabTerm t.raw none
+
+/-- Syntax for omitting a local hypothesis in `solve_by_elim`. -/
+syntax erase := "-" term:max
```
Comment (dwrensha) [inline Mathlib/Tactic/SolveByElim.lean:373]: Did you consider re-using the existing syntax from `simp` for this? (Maybe that would save some duplication, but maybe also it's cleaner to keep things stratified as you have here.)

File: test/librarySearch.lean [hunk 9]
```diff
@@ -14,37 +14,38 @@ example : x < x + 1 := library_search%
...
 
--- TODO example (a b : ℕ) (ha : a > 0) (hb : 0 < b) : 0 < a + b := by library_search -- says: `exact add_pos ha hb`
+example (a b : ℕ) (ha : a > 0) (_hb : 0 < b) : 0 < a + b := by library_search
 
 example (a b : ℕ) (h : a ∣ b) (w : b > 0) : a ≤ b :=
-by library_search -- says: `exact nat.le_of_dvd w h`
+by library_search -- says: `exact Nat.le_of_dvd w h`
 
--- TODO example (a b : ℕ) (h : a ∣ b) (w : b > 0) : b ≥ a := by library_search -- says: `exact nat.le_of_dvd w h`
+-- TODO
```
Comment (dwrensha) [inline test/librarySearch.lean:47]: Is this `TODO` obsolete?

File: Mathlib/Tactic/LibrarySearch.lean [hunk 10]
```diff
@@ -49,13 +49,21 @@ initialize librarySearchLemmas : DeclCache (DiscrTree Name true) ←
...
       pure $ lemmas.insertCore keys name
 
-/-- Shortcut for calling `solveByElimImpl`. -/
-def solveByElim (g : MVarId) (depth) := SolveByElim.solveByElimImpl false [] depth g
+/-- Shortcut for calling `solveByElim`. -/
+def solveByElim (goals : List MVarId) (required : List Expr) (depth) := do
+  -- I only found a marginal decrease in performance for using the `symm` and `exfalso`
+  -- options for `solveByElim`.
+  -- (measured via `lake build && time lake env lean test/librarySearch.lean`).
+  -- We could nevertheless disable them for only a slight decrease in power.
```
Comment (dwrensha) [inline Mathlib/Tactic/LibrarySearch.lean:57]: I certainly expect `library_search` to try `symm`. I would be against hardcoding `symm := false`, though maybe it would make sense to expose a config option.

**Review by dwrensha — APPROVED** [review]

File: Mathlib/Tactic/SolveByElim.lean (hunk 7 above)
Comment (semorrison) [reply Mathlib/Tactic/SolveByElim.lean:202]: I should have written an explanation here.

I first implemented the mathlib3 approach, and realised it was really slow (adds about 50% to the library search test file). I then switched to this approach, which has an almost undetectable slow down. 

I'll document this soon.

File: Mathlib/Tactic/SolveByElim.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/Tactic/SolveByElim.lean:373]: It is less general that the syntax for simp, as it doesn't allow the various left, up, and down arrows in front of lemma names. Since that syntax is in core, there isn't a convenient way to immediately refactor it to support this syntax.

Comment (mcdoll) [reply Mathlib/Tactic/SolveByElim.lean:373]: Maybe leave a note here and ask for addition of "-" in core for simp?

File: test/SolveByElim.lean [hunk 11]
```diff
@@ -3,34 +3,54 @@ Copyright (c) 2021 Scott Morrison. All rights reserved.
...
+import Mathlib.Tactic.PermuteGoals
 import Mathlib.Tactic.SolveByElim
 
 example (h : Nat) : Nat := by solve_by_elim
 example {α β : Type} (f : α → β) (a : α) : β := by solve_by_elim
 example {α β : Type} (f : α → α → β) (a : α) : β := by solve_by_elim
 example {α β γ : Type} (f : α → β) (g : β → γ) (a : α) : γ := by solve_by_elim
 example {α β γ : Type} (_f : α → β) (g : β → γ) (b : β) : γ := by solve_by_elim
-example {α : Nat → Type} (f : (n : Nat) → α n → α (n+1)) (a : α 0) : α 5 := by solve_by_elim
+example {α : Nat → Type} (f : (n : Nat) → α n → α (n+1)) (a : α 0) : α 4 := by solve_by_elim
```
Comment (mcdoll) [inline test/SolveByElim.lean:18]: Why is this changed?

**Review by mcdoll — APPROVED** [review]
Looks good for me.

File: test/SolveByElim.lean (hunk 11 above)
Comment (semorrison) [reply test/SolveByElim.lean:18]: This test is new, and would have failed in mathlib3 due to the even lower recursion bound there.

File: test/SolveByElim.lean (hunk 3 above)
Comment (semorrison) [reply test/SolveByElim.lean]: Okay, I've left a comment on this test, but I'm inclined not to otherwise pursue this now.

File: Mathlib/Lean/Meta.lean [hunk 12]
```diff
@@ -41,6 +41,11 @@ where
       else
         return e.hasFVar
 
+/-- Add the hypothesis `h : t`, given `v : t`, and return the new `FVarId`. -/
+def note (h : Name := .anonymous) (t : Option Expr) (v : Expr) (g : MVarId) :
+    MetaM (FVarId × MVarId) := do
+  (← g.assert h (t.getD (← inferType v)) v).intro1P
```
Comment (digama0) [inline Mathlib/Lean/Meta.lean:47]: The `getD` here doesn't work, you need `getDM` as mentioned [on zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/.5BRFC.5D.20refine_struct.20functionality.20via.20new.20.3F.2E.2E.20syntax/near/314351174)

File: Mathlib/Tactic/LibrarySearch.lean [hunk 13]
```diff
@@ -49,13 +49,20 @@ initialize librarySearchLemmas : DeclCache (DiscrTree Name true) ←
...
-def solveByElim (g : MVarId) (depth) := SolveByElim.solveByElimImpl false [] depth g
+/-- Shortcut for calling `solveByElim`. -/
+def solveByElim (goals : List MVarId) (required : List Expr) (depth) := do
+  -- There is only a marginal decrease in performance for using the `symm` and `exfalso`
+  -- options for `solveByElim`.
+  -- (measured via `lake build && time lake env lean test/librarySearch.lean`).
+  let cfg : SolveByElim.Config := { maxDepth := depth, exfalso := true, symm := true }
+  let cfg := if !required.isEmpty then cfg.requireUsingAll required else cfg
+  _ ← SolveByElim.solveByElim.processSyntax cfg false false [] [] goals
+  pure ()
```
Comment (digama0) [inline Mathlib/Tactic/LibrarySearch.lean:60]:
```suggestion
```

File: Mathlib/Tactic/Relation/Symm.lean [hunk 14]
```diff
@@ -39,36 +40,102 @@ initialize registerBuiltinAttribute {
...
+    return args.back.mvarId!
+
+/-- Use a symmetry lemma (i.e. marked with `@[symm]`) to replace a hypothesis in a goal. -/
+def symmAt (h : FVarId) (g : MVarId) : MetaM MVarId := do
+  let h' ← (Expr.fvar h).symm
+  pure (← g.replace h (← inferType h') h').mvarId
+
+/-- For every hypothesis `h : a ~ b` where a `@[symm]` lemma is available,
+add a hypothesis `h.symm : b ~ a`. -/
+-- We could omit duplicate propositions, and avoid clobbering names, but don't for now.
```
Comment (digama0) [inline Mathlib/Tactic/Relation/Symm.lean:114]: This seems like a pretty important limitation, you might even call it a bug. The name "saturate" implies that it works until fixpoint but if you iterate this the local context explodes.

File: Mathlib/Tactic/Relation/Symm.lean [hunk 15]
```diff
@@ -39,36 +40,102 @@ initialize registerBuiltinAttribute {
...
+def symmSaturate (g : MVarId) : MetaM MVarId := g.withContext do
+  let mut g' := g
+  for h in ← getLocalHyps do try
+    (_, g') ← g'.note ((← h.fvarId!.getUserName).str "symm") none (← h.symm)
```
Comment (digama0) [inline Mathlib/Tactic/Relation/Symm.lean:118]: Local variables can't (shouldn't) have composite names. This is just a strange way to write an inaccessible variable.

Comment (semorrison) [reply Mathlib/Tactic/Relation/Symm.lean]: Switched to using `appendAfter "_symm"`.

File: Mathlib/Lean/Meta.lean (hunk 12 above)
Comment (semorrison) [reply Mathlib/Lean/Meta.lean]: Fixed, thanks.

File: Mathlib/Order/CompleteLattice.lean [hunk 16]
```diff
@@ -255,13 +255,23 @@ theorem infᵢ_le_iff {s : ι → α} : infᵢ s ≤ a ↔ ∀ b, (∀ i, b ≤
   simp [infᵢ, infₛ_le_iff, lowerBounds]
 #align infᵢ_le_iff infᵢ_le_iff
 
+-- Help wanted:
+-- This is showing on error on the `hy'` in `solve_by_elim [le_trans _ hy']`
+-- saying `unknown identifier 'hy''`.
+-- However `solve_by_elim` is working perfectly, successfully closing the goal using `hy'`.
+-- (See the #print statement below.)
+-- Who is generating this error, and why?
```
Comment (semorrison) [inline Mathlib/Order/CompleteLattice.lean:263]: @digama0, could I have some assistance diagnosing this error? I do not understand who is generating this error, when `solve_by_elim` seems to be successfully using this term!

**Comment by hrmacbeth** [comment]
I'm sorry @semorrison , I thought it would save you some time if I resolved the merge conflict but I believe I have introduced errors in doing this.  I'm guessing the `Algebra/Order/Ring/Canonical` and `Data/Nat/Choose/Basic` changes are not supposed to be there, maybe also not the ones in `Abel` and `ApplyRules`?  You'll probably have to check the whole diff again, or do some git magic to get rid of my merge commit :(

**Comment by hrmacbeth** [comment]
I got rid of the merge commit, should be back to previous state.

**Comment by hrmacbeth** [comment]
This has had plenty of review and keeps getting conflicts.  I'm going to go ahead and merge.  Thanks!

bors r+
